US04665174
Into the same flask as used in Example 1, triethylamine (10 g), mercaptoacetic acid (30 g) and toluene (50 g) were charged, and 2-allyl-3-hydroxy-3-methyl-4-cyclopentenone (15.2 g) was dropwise added thereto at a temperature of 20° to 40° for 1 hour. Thereafter, the reaction mixture was stirred at a temperature of 50° to 70° C. for 4 hours. After completion of the reaction, the mixture was evaporated under reduced pressure. The residue was dissolved in a 5% aqueous solution of sodium bicarbonate (100 g), and undissolved materials were filtered off. The filtrate was treated with an acid and extracted with diethyl ether. Diethyl ether was evaporated off from the organic layer to obtain 2-allyl-3-methyl-4-carboxymethylthio-2-cyclopentenone (20.5 g). Yield, 90.5%. nD20 1.5567.

reactant | triethylamine | 10 g | C(C)N(CC)CC | C6H15N
reactant | mercaptoacetic acid | 30 g | SCC(=O)O | C2H4O2S
reactant | 2-allyl-3-hydroxy-3-methyl-4-cyclopentenone | 15.2 g | C(C=C)C1C(C=CC1(C)O)=O | C9H12O2
solvent | toluene | 50 g | C1(=CC=CC=C1)C | C7H8
product | 2-allyl-3-methyl-4-carboxymethylthio-2-cyclopentenone | 20.5 g | C(C=C)C=1C(CC(C1C)SCC(=O)O)=O | C11H14O3S
